* Z:\mnt\design.r\spice\examples\1962-1.8.asc
V1 IN 0 PWL(0 0 1 10)
C1 OUT 0 1µ
Rload OUT 0 1K
XU1 OUT OUT N001 0 IN MP_01 MP_02 IN LT1962-1.8
.tran 1
.lib LT1962.lib
.backanno
.end
